US09278931B2
A) tert-butyl [trans-2-(4-{[4-(benzoylamino)benzoyl]amino}-phenyl)cyclopropyl](cyclopropylmethyl)carbamate
To a solution of tert-butyl [trans-2-(4-aminophenyl)cyclopropyl](cyclopropylmethyl)carbamate (90.9 mg), 4-benzamidobenzoic acid (87 mg) and 1-hydroxybenzotriazole (60.9 mg) in DMF (1.5 mL) was added N-ethyl-N′-(3-dimethylaminopropyl)carbodiimide hydrochloride (86 mg). The reaction mixture was stirred at room temperature for 2 hr, and poured into 0.5N hydrochloric acid. The mixture was extracted with ethyl acetate, and the extract was washed successively with water, saturated aqueous sodium hydrogen carbonate solution and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was washed with ethyl acetate/diisopropyl ether to give the title compound (98.0 mg).

reactant | tert-butyl [trans-2-(4-aminophenyl)cyclopropyl](cyclopropylmethyl)carbamate | 90.9 mg | NC1=CC=C(C=C1)[C@H]1[C@@H](C1)N(C(OC(C)(C)C)=O)CC1CC1 | C18H26N2O2
reactant | 4-benzamidobenzoic acid | 87 mg | C(C1=CC=CC=C1)(=O)NC1=CC=C(C(=O)O)C=C1 | C14H11NO3
reactant | 1-hydroxybenzotriazole | 60.9 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-ethyl-N′-(3-dimethylaminopropyl)carbodiimide hydrochloride | 86 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | hydrochloric acid | 0.5N | Cl | ClH
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | tert-butyl [trans-2-(4-{[4-(benzoylamino)benzoyl]amino}-phenyl)cyclopropyl](cyclopropylmethyl)carbamate | 98.0 mg | C(C1=CC=CC=C1)(=O)NC1=CC=C(C(=O)NC2=CC=C(C=C2)[C@H]2[C@@H](C2)N(C(OC(C)(C)C)=O)CC2CC2)C=C1 | C32H35N3O4
